US08039469B2
Step 4: Preparation of 4-[({4-[4-{4-[(methylcarbamoyl)amino]phenyl}-6-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-1,3,5-triazin-2-yl]phenyl}carbamoyl)amino]benzamide
The title compound was prepared by following the procedure of example 462 step 7 using 1-(4-(4-(4-aminophenyl)-6-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-1,3,5-triazin-2-yl)phenyl)-3-methylurea and phenyl 4-carbamoylphenylcarbamate. Yield 90 mg, 13% yield.

reactant | 1-(4-(4-(4-aminophenyl)-6-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-1,3,5-triazin-2-yl)phenyl)-3-methylurea | NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CC2CCC(C1)O2)C2=CC=C(C=C2)NC(=O)NC | C23H25N7O2
reactant | phenyl 4-carbamoylphenylcarbamate | C(N)(=O)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C14H12N2O3
product | 4-[({4-[4-{4-[(methylcarbamoyl)amino]phenyl}-6-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-1,3,5-triazin-2-yl]phenyl}carbamoyl)amino]benzamide | 13% yield | CNC(=O)NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CC2CCC(C1)O2)C2=CC=C(C=C2)NC(=O)NC2=CC=C(C(=O)N)C=C2 | C31H31N9O4
